US08357703B2
e) 6-(3-Cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide
As described for example 5d, 6-(3-cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester (230 mg, 0.73 mmol) was converted, instead of 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester, to the title compound (155 mg, 62%) which was obtained as a white solid after purification by chromatography (silica, 0 to 80% ethyl acetate in heptane). MS: m/e=344.0 [M+H]+.

reactant | 6-(3-cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | 0.73 mmol, 230 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1CCCC1)=O | C17H20N2O4
reactant | 6-(3-butyl-5-methyl-isoxazol-4-ylmethoxy)-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)CCCC)=O | C16H20N2O4
product | 6-(3-Cyclopentyl-5-methyl-isoxazol-4-ylmethoxy)-N-isopropyl-nicotinamide | 155 mg, 62% | C1(CCCC1)C1=NOC(=C1COC1=NC=C(C(=O)NC(C)C)C=C1)C | C19H25N3O3
